US08003649B2
DIAD (2.262 mL, 11.49 mmol) was added to 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol (3 g, 10.44 mmol), 4-(benzyloxy)phenol (2.300 g, 11.49 mmol) and triphenylphosphine (3.01 g, 11.49 mmol) in THF (50 mL) under nitrogen. The resulting solution was stirred at ambient temperature for 4 hours. The crude oil was triturated with MeOH to give a solid which was collected by filtration and dried under vacuum to give 6-[4-[4-(benzyloxy)phenoxy]piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (2.53 g, 52%) as a solid.

reactant | DIAD | 11.49 mmol, 2.262 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 10.44 mmol, 3 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)O)(F)F | C11H12F3N5O
reactant | 4-(benzyloxy)phenol | 11.49 mmol, 2.300 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | triphenylphosphine | 11.49 mmol, 3.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-[4-[4-(benzyloxy)phenoxy]piperidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 2.53 g, 52% | C(C1=CC=CC=C1)OC1=CC=C(OC2CCN(CC2)C=2C=CC=3N(N2)C(=NN3)C(F)(F)F)C=C1 | C24H22F3N5O2
